US06245773B1
b) 3-[4-(2-Pyridyl)-piperidin-1-yl]-2-hydroxypropylamine
A mixture of 3-[4-(2-pyridyl)-piperidin-1-yl](2-hydroxypropyl)phthalimide (1.35 g, 3.68 mmol) and hydrazine (0.588 g, 18.4 mmol) in methanol (15 mL) was stirred and refluxed for 4.5 h. It was cooled, filtered, and the solid was washed with methanol (30 mL). Evaporation of solvent from the filtrate gave the product as a viscous oil (0.85 g, 98%).

reactant | 3-[4-(2-pyridyl)-piperidin-1-yl](2-hydroxypropyl)phthalimide | 3.68 mmol, 1.35 g | N1=C(C=CC=C1)C1CCN(CC1)C1=C2C(C(=O)NC2=O)=CC=C1CC(C)O | C21H23N3O3
reactant | hydrazine | 18.4 mmol, 0.588 g | NN | H4N2
reactant | methanol | 15 mL | CO | CH4O
product | 3-[4-(2-Pyridyl)-piperidin-1-yl]-2-hydroxypropylamine | 0.85 g, 98% | N1=C(C=CC=C1)C1CCN(CC1)CC(CN)O | C13H21N3O
